US07211601B2
(2S,4EZ)-4-[(allyloxy)imino]-N-[2-(diethylamino)ethyl]-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 93% purity by LC/MS. MS(ESI+): m/z=475.4.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-4-[(allyloxy)imino]-N-[2-(diethylamino)ethyl]-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(=O)C=1C(OC(=CC1)CCCCC)=O)C(=O)NCCN(CC)CC | C25H38N4O5
